US06071927
N-Methyl-3-bromo-4-(trifluoromethoxy)aniline
Sodium hydride (60% dispersion in mineral oil, 870 mg, 21.7 mmol) was added to a stirred, cooled (0° C.) solution of N-[3-Bromo-4-(trifluoromethoxy)phenyl]trifluoroacetamide (Description 50, 6.3 g, 18.0 mmol) in DMF (50 ml). The mixture was stirred at 0° C. for 20 min. and methyl iodide (1.35 ml, 21.7 mmol) was added over 5 min. The mixture was stirred at 0° C. for 45 min. and at room temperature for 4 h. Water (100 ml) was added and the mixture was extracted with ethyl acetate (3×100 ml). The combined organic fractions were washed with water (3×100 ml) and brine (100 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with hexane/CH2Cl2 (3:1 increasing to 1:1) to give the title compound as a tan oil (1.20 g, 25%). 1H NMR (250 MHz, CDCl3) δ7.11 (1H, dq, J 8.9, 1.2 Hz), 6.86 (1H, d, J 2.8 Hz), 6.56 (1H, dd, J 8.9, 2.8 Hz), and 2.83 (3H, s).

reactant | Sodium hydride | 21.7 mmol, 870 mg | [H-].[Na+]
reactant | N-[3-Bromo-4-(trifluoromethoxy)phenyl]trifluoroacetamide | 18.0 mmol, 6.3 g | BrC=1C=C(C=CC1OC(F)(F)F)NC(C(F)(F)F)=O | C9H4BrF6NO2
reactant | methyl iodide | 21.7 mmol, 1.35 ml | CI | CH3I
reactant | Water | 100 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-Methyl-3-bromo-4-(trifluoromethoxy)aniline | 1.20 g, 25% | CNC1=CC(=C(C=C1)OC(F)(F)F)Br | C8H7BrF3NO
